US04215195
Preparation of N-(2-acetoacetamidoethyl)-methacrylamide
Crude N-(2-aminoethyl)acetoacetamide hydrobromide (50 g, 0.18 mole) was dissolved in N,N-dimethylformamide (500 ml). Triethylamine (78 g, 0.4 mole) and methacryloyl chloride (19 g, 0.18 mole) were added simultaneously at 0° C. The reaction solution was then stirred at 0° C. for 1 hour and at 20° C. for 20 hours. The resulting solution was filtered, the solvent removed, and the residue dissolved in chloroform (500 ml). The solution was then washed with 10% hydrochloric acid (200 ml), then water (200 ml) and dried over anhydrous magnesium sulfate. The solvent was then removed. The residue was recrystallized from ethanol/ether (1:1). The resulting compound had a m.p. of 86°-90° C. The yield was 25%.

reactant | N-(2-aminoethyl)acetoacetamide hydrobromide | 0.18 mole, 50 g | Br.NCCNC(CC(=O)C)=O
reactant | Triethylamine | 0.4 mole, 78 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.18 mole, 19 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-(2-acetoacetamidoethyl)-methacrylamide | yield was 25% | C(CC(=O)C)(=O)NCCNC(C(=C)C)=O | C10H16N2O3
